US08729105B2
Preparation of 2-Chloro-4-(3,4-dichloro-phenyl)-5-(2,2,2-trifluoro-ethoxy)-pyrimidine
To a mixture of 2.0 ml 2,2,2-trifluoroethanol in 35 mL dry DMF was added 1.1 g sodium hydride was added and the mixture was stirred at room temperature for 15 minutes. The resulting solution was added drop wise at −10° C. to a solution of 7 g 2-chloro-4-(3,4-dichloro-phenyl)-5-fluoro-pyrimidine in 50 mL dry DMF during 39 min. The reaction mixture was then stirred at room temperature for 2 h. The resulting brown mixture was partitioned between water and ethyl acetate, the phases were separated the organic phase was dried over MgSO4 and purified by chromatography on silica gel with a gradient of heptane:dichloromethane=1:1 to dichloromethane to yield 5.575 g (61.81%) of the title compound as light yellow solid, MS 356.9 (M+H)+.

reactant | 2,2,2-trifluoroethanol | 2.0 ml | FC(CO)(F)F | C2H3F3O
reactant | sodium hydride | 1.1 g | [H-].[Na+]
reactant | 2-chloro-4-(3,4-dichloro-phenyl)-5-fluoro-pyrimidine | 7 g | ClC1=NC=C(C(=N1)C1=CC(=C(C=C1)Cl)Cl)F | C10H4Cl3FN2
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-Chloro-4-(3,4-dichloro-phenyl)-5-(2,2,2-trifluoro-ethoxy)-pyrimidine | 5.575 g, 61.81% | ClC1=NC=C(C(=N1)C1=CC(=C(C=C1)Cl)Cl)OCC(F)(F)F | C12H6Cl3F3N2O
